Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Celexa / Topamax / Benadryl
 
Attending: ___
 
Chief Complaint:
fibroids and heavy bleeding
 
Major Surgical or Invasive Procedure:
exam under anesthesia, dilation and curretage, total abdominal 
hysterectomy, bilateral salpingectomy, cystoscopy 

 
History of Present Illness:
pt presents for evaluation of a symptomatic fibroid uterus. She 
was seen in ED a few days ago with abd pain when she just about 
fainted. She has a hx of IBS and thought the pain might be 
related to that. ED imaging revealed fibroids. She was directed 
to f/u with GYN. 

She has felt like there was something in her lower abd for 
several months. She has urinary frequency and new onset 
incontinence which impacts her ability to do her job in the ED. 
She has developed very heavy periods in the past 6 months, 
changing her femcare sometimes as often as every 30 min. She 
also has dysmenorrhea. She is sexually active with a female 
partner and sometimes has dyspareunia and post-coital bleeding. 
She is not using any hormonal contraception. 
 
Past Medical History:
Past Medical History:
FIBROID UTERUS                                                  
MENORRHAGIA                                                     
IRRITABLE BOWEL SYNDROME                                        
DEPRESSION                                                      
POST-TRAUMATIC STRESS DISORDER                                  
ANXIETY

Past Surgical History:
None

PREVIOUS GYN HISTORY:  G0  
LAST PAP: ___        PLACE:  PCP   ___: neg per pt
hx abnml pap, no colpo, rpt pap neg
 
Social History:
Marital status:     Significant Other                           
Children:           No                                          
Lives with:         Other: roommates                            
Work: ___
Multiple partners:  ___                                      
___ activity:    Present                                     
Sexual orientation: Female                                      
Sexual Abuse:       Past                                        
Domestic violence:  Past                                        
Domestic violence   safe now                                    
comments:                                                       
Contraception:      N/A; None                                   
Tobacco use:        Former smoker                               
Tobacco Use         vapes now                                   
Comments:                                                       
Alcohol use:        Present                                     
drinks per week:    ___                                         
Recreational drugs  Denies                                      
(marijuana, heroin,                                             
crack pills or                                                  
other):   
 
Family History:
Mother   Living       FIBROID UTERUS                            

Father   ___     MYOCARDIAL                                
                      INFARCTION                                

MGM                   FIBROID UTERUS                            
                      OVARIAN CANCER                            

MGF                   STROKE                                    

Aunt                  FIBROID UTERUS             maternal aunt  

Brother               STROKE AT AGE ___       
 
Physical Exam:
Physical Exam on Day of Presentation:
PE: Well-developed, well-nourished woman in no apparent distress
Vital Signs sheet entries for ___: 
BP: 138/82. Weight: 156 (With Clothes; With Shoes). BMI: 24.4.
LMP: ___.
Abdomen: Soft, nondistended, nontender, palpable mass
approximately 3 fingerbreadths above the pubic symphysis
consistent with her known fibroid uterus.  This mass was mobile
and nontender.
Pelvic: Normal female external genitalia with normal 
Bartholin's,
urethral and Skene's glands.  There was no urethral carbuncle or
any signs of infection.  There was good bladder support.  There
were no perineal or perirectal lesions.  The vaginal vault had a
tight introitus that admitted ___ fingers.  Vaginal vault had a
normal-appearing discharge there were no lesions.  The cervix 
was
without cervical motion tenderness or lesions.  Pap smear with
high-risk HPV co-testing was done.  Uterus is approximately 15 
cm
in maximum dimension, mobile, firm, nontender.  Adnexa was
without any obvious masses and she was nontender bilaterally.

Physical Exam on Day of Discharge:
General: NAD, comfortable
CV: RRR
Lungs: CTAB
Abdomen: soft, non-distended, appropriately tender, especially
over incision in lower abd, incisions C/D/I 
GU: pad with no spotting
Extremities: no edema, no TTP, pneumoboots in place bilaterally 
 
Pertinent Results:
___ 04:30PM URINE  UCG-NEGATIVE
___ 04:30PM URINE  HOURS-RANDOM
___ 05:55PM   PLT COUNT-338
___ 05:55PM   WBC-8.3 RBC-4.03 HGB-12.9 HCT-39.6 MCV-98 
MCH-32.0 MCHC-32.6 RDW-11.5 RDWSD-41.9
 
Brief Hospital Course:
On ___, Ms. ___ was admitted to the gynecology service 
after undergoing an exam under anesthesia, dilation and 
curretage, total abdominal hysterectomy, bilateral 
salpingectomy, cystoscopy for symptomatic fibroid uterus. Please 
see the operative report for full details.

The patients postoperative course was complicated by urinary 
retention. On post-operative day 1, her urine output was 
adequate and her Foley was removed, however she was unable to 
void and a foley catheter was replaced for 650ccs. On 
postoperative day #2, the patient's catheter was removed and she 
voided spontaneously.

Her post-operative course was otherwise uncomplicated. 
Immediately post-op, her pain was controlled with IV Toradol. 
Her diet was advanced without difficulty, and she was 
transitioned to oral dilaudid, ibuprofen, and tylenol. She was 
continued on her home medicines (lamotrigine, buproprion, 
propanolol) for history of PTSD. 

By post-operative day 2, she was tolerating a regular diet, 
voiding spontaneously, ambulating independently, and pain was 
controlled with oral medications. She was then discharged home 
in stable condition with outpatient follow-up scheduled.
 
Medications on Admission:
Medications - Prescription
BUPROPION HCL [WELLBUTRIN SR] - Dosage uncertain -  (Prescribed
by Other Provider)
IBUPROFEN - ibuprofen 800 mg tablet. 1 tablet(s) by mouth three
times a day
LAMOTRIGINE [LAMICTAL] - Dosage uncertain -  (Prescribed by 
Other
Provider)
MISOPROSTOL - misoprostol 200 mcg tablet. 1 tablet(s) in vagina
at bedtime the night before procedure. Place as deeply in the
vagina as you can. ___ cause fever, cramping, diarrhea.
 
Medications - OTC
CETIRIZINE [ZYRTEC] - Dosage uncertain -  (Prescribed by Other
Provider)
FERROUS SULFATE, DRIED [IRON (DRIED)] - Dosage uncertain - 
(Prescribed by Other Provider)
 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Pain - Mild 
Do not take more than 4000mg in 24 hours 
RX *acetaminophen 500 mg ___ tablet(s) by mouth every 6 hours 
Disp #*45 Tablet Refills:*0 
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 tablet(s) by mouth twice per day 
Disp #*50 Tablet Refills:*1 
3.  HYDROmorphone (Dilaudid) ___ mg PO Q4H:PRN Pain - Mild 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
Do not drink and drive. ___ cause sedation. Partial fill upon 
request.  
RX *hydromorphone 2 mg ___ tablet(s) by mouth Q4hr Disp #*30 
Tablet Refills:*0 
4.  Ibuprofen 600 mg PO Q6H:PRN Pain - Moderate 
Please take with food 
RX *ibuprofen 600 mg ___ tablet(s) by mouth every 6 hours Disp 
#*50 Tablet Refills:*1 
5.  Senna 8.6 mg PO BID:PRN Constipation - First Line 
Hold if having diarrhea. 
RX *sennosides 8.6 mg 1 tablet by mouth BID:PRN Disp #*30 Tablet 
Refills:*1 
6.  BuPROPion XL (Once Daily) 450 mg PO DAILY  
7.  LamoTRIgine 300 mg PO DAILY  
8.  Propranolol 20 mg PO BID:PRN anxiety  
9.  Triamcinolone Acetonide 0.1% Cream 1 Appl TP TID:PRN rash  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
fibroid uterus 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the gynecology service after your 
procedure. You have recovered well and the team believes you are 
ready to be discharged home. Please call Dr. ___ 
office with any questions or concerns. Please follow the 
instructions below.

General instructions:
* Take your medications as prescribed.
* Do not drive while taking narcotics.
* Take a stool softener such as colace while taking narcotics to 
prevent constipation.
* Do not combine narcotic and sedative medications or alcohol.
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.
* No strenuous activity until your post-op appointment.
* Nothing in the vagina (no tampons, no douching, no sex) for 6 
weeks.
* No heavy lifting of objects >10 lbs for 6 weeks.
* You may eat a regular diet.
* You may walk up and down stairs.

Incision care:
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. No tub baths for 6 weeks.
* Since you have steri-strips, leave them on. They will fall off 
on their own or be removed during your followup visit.

Call your doctor for:
* fever > 100.4F
* severe abdominal pain
* difficulty urinating
* vaginal bleeding requiring >1 pad/hr
* abnormal vaginal discharge
* redness or drainage from incision
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication

 
Followup Instructions:
___